US07935702B2
5. N4-(5-(trifluoromethyl)pyridin-2-yl)pyridine-2.3, 4-triamine
Hydrogenate a mixture of 3-nitro-N4-(5-(trifluoromethyl)pyridin-2-yl)pyridine-2,4-diamine (1.1 g, 0.00368 moles) and 10% Pd/C (150 mg) in 50 mL of MeOH at room temperature under 50 psi of H2 (g). After 17 hours, filter the mixture through Celite, and wash the Celite well with MeOH. Concentrate the filtrate under vacuum to give the title compound as a brown solid. 1H NMR (400 MHz, DMSO-D6) δ 8.81 (s, 1H), 8.41 (s, 1H), 7.819 (d, 1H, J=2.2 Hz), 7.273 (d, 1H, J=1.9 Hz), 6.885 (d, 2H, J=1.9 Hz), 5.685 (bs, 2H), 4.575 (bs, 2H). Mass spec. (270.04, M+H).

reactant | 3-nitro-N4-(5-(trifluoromethyl)pyridin-2-yl)pyridine-2,4-diamine | 0.00368 moles, 1.1 g | [N+](=O)([O-])C=1C(=NC=CC1NC1=NC=C(C=C1)C(F)(F)F)N | C11H8F3N5O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | N4-(5-(trifluoromethyl)pyridin-2-yl)pyridine-2.3, 4-triamine | FC(C=1C=CC(=NC1)NC1=C(C(=NC=C1)N)N)(F)F | C11H10F3N5
